### PR TITLE
Remove the phantom in tuple

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change

Simplify the code base using reverse coercions

##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: mathcomp/ssreflect/fintype.v [hunk 1]
```diff
@@ -2304,6 +2303,9 @@ Arguments inord_val {n'}.
 Lemma ord1 : all_equal_to (ord0 : 'I_1).
 Proof. by case=> [[] // ?]; apply: val_inj. Qed.
 
+Canonical ordSS n (i : 'I_n) : 'I_n.+1 :=
+  @Ordinal n.+1 i.+1 (lift_subproof 0 (i : 'I_n.+1.-1)).
```
Comment (proux01) [inline mathcomp/ssreflect/fintype.v:2307]: Do we really want that to be canonical?

File: mathcomp/ssreflect/order.v [hunk 2]
```diff
@@ -7387,7 +7387,7 @@ elim: n => [|n IHn] in t1 t2 *.
 case: (tupleP t1) (tupleP t2) => [x1 {}t1] [x2 {}t2].
 rewrite [_ <= _]le_cons [t1 <= t2 :> seq _]IHn.
 apply/idP/forallP => [/andP[lex12 /forallP/= let12 i]|lext12].
-  by case: (unliftP ord0 i) => [j ->|->]//; rewrite !tnthS.
+   by case: (unliftP ord0 i) => [j ->|->]//; rewrite !tnthS.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:7390]: Spurious space?

File: mathcomp/ssreflect/tuple.v [hunk 3]
```diff
@@ -92,12 +92,6 @@ Proof.
 by move/eq_map=> eq_t; apply: val_inj; rewrite /= -!map_tnth_enum eq_t.
 Qed.
 
-Definition tuple t mkT : tuple_of :=
-  mkT (let: Tuple _ tP := t return size t == n in tP).
-
-Lemma tupleE t : tuple (fun sP => @Tuple t sP) = t.
-Proof. by case: t. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/tuple.v:99]: Changelog entry?

File: mathcomp/ssreflect/tuple.v [hunk 4]
```diff
@@ -235,42 +229,42 @@ Canonical sort_tuple r t := Tuple (sort_tupleP r t).
 
 Definition thead (u : n.+1.-tuple T) := tnth u ord0.
 
-Lemma tnth0 x t : tnth [tuple of x :: t] ord0 = x.
+Lemma tnth0 x t : tnth (x :: t) ord0 = x.
 Proof. by []. Qed.
 
-Lemma tnthS x t i : tnth [tuple of x :: t] (lift ord0 i) = tnth t i.
+
```
Comment (proux01) [inline mathcomp/ssreflect/tuple.v:235]:
```suggestion

```
(spurious newline)

File: mathcomp/ssreflect/tuple.v [hunk 5]
```diff
@@ -235,42 +229,42 @@ Canonical sort_tuple r t := Tuple (sort_tupleP r t).
...
 
 End SeqTuple.
 
 Lemma tnth_behead n T (t : n.+1.-tuple T) i :
-  tnth [tuple of behead t] i = tnth t (inord i.+1).
+  tnth (behead t) i = tnth t (inord i.+1).
 Proof. by case/tupleP: t => x t; rewrite !(tnth_nth x) inordK ?ltnS. Qed.
 
-Lemma tuple_eta n T (t : n.+1.-tuple T) : t = [tuple of thead t :: behead t].
+Lemma tuple_eta n T (t : n.+1.-tuple T) : t = [tuple of thead t :: behead t]. (* BUG *)
```
Comment (proux01) [inline mathcomp/ssreflect/tuple.v:267]: Maybe make the comment more precise?

**Review by proux01 — APPROVED** [review]
A few details but mostly looks good

**Comment by CohenCyril** [comment]
> A few details but mostly looks good

Woops sorry I forgot to push as a draft. I wanted mostly the CI to run.
